US05834454
Crude N-(aminoiminomethyl)-5,6-dihydro-6-hydroxy-9-methyl-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxamide was obtained by carrying out reaction according to the method described in Example 1, except for using ethyl 5,6-dihydro-6-hydroxy-9-methyl-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxylate (0.70 g, 2.70 mmol), guanidine hydrochloride (2.58 g, 27.0 mmol), sodium methoxide (1.46 g, 27.0 mmol) and N,N-dimethylformamide (40 ml). This compound was dissolved in a solution of methanesulfonic acid (1.0 g) in isopropanol (50 ml) and the resulting solution was stirred at 60° C. for 30 minutes. Subsequently, the reaction solution was poured into ice water, made basic with 28% aqueous ammonia and then extracted three times with ethyl acetate. The extract solution was washed with a 5% aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol = 97/3) to obtain 0.37 g of N-(aminoiminomethyl)-5,6-dihydro-6-isopropoxy-9-methyl-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxamide. This compound was treated with methanesulfonic acid (0.29 g) in a mixed solvent of tetrahydrofuran and diethyl ether to obtain N-(aminoiminomethyl)-5,6-dihydro-6-isopropoxy-9-methyl-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxamide methanesulfonate.

reactant | ethyl 5,6-dihydro-6-hydroxy-9-methyl-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxylate | 2.70 mmol, 0.70 g | OC1CCN2C3=C(C(=CC=C13)C)C=C2C(=O)OCC | C15H17NO3
reactant | guanidine hydrochloride | 27.0 mmol, 2.58 g | Cl.NC(=N)N
reactant | sodium methoxide | 27.0 mmol, 1.46 g | C[O-].[Na+]
reactant | ammonia | N | H3N
reactant | isopropanol | 50 ml | C(C)(C)O | C3H8O
solvent | methanesulfonic acid | 1.0 g | CS(=O)(=O)O | CH4O3S
solvent | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-(aminoiminomethyl)-5,6-dihydro-6-isopropoxy-9-methyl-4H-pyrrolo [3,2,1-ij]quinoline-2-carboxamide | 0.37 g | NN=CNC(=O)C1=CC=2C(=CC=C3C(CCN1C23)OC(C)C)C | C17H22N4O2
